2154-06-09 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2154-6-8**] 08:14 PM
 FEVER - 101.3
F - [**2154-6-8**] 08:00 PM
   -low [**Year (4 digits) **]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-6-9**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.2
C (99
   HR: 80 (71 - 93) bpm
   BP: 123/50(68) {92/42(55) - 124/77(69)} mmHg
   RR: 24 (15 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
             Total In:
                                                                  1,640 mL
                                                                    693 mL
   PO:
                                                                    200 mL
             TF:
   IVF:
                                                                  1,440 mL
                                                                    693 mL
   Blood products:
   Total out:
                                                                    440 mL
                                                                     10 mL
   Urine:
                                                                     40 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,200 mL
                                                                    683 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///18/
   PHYSICAL EXAM
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear, R 3^rd cranial nerve
   palsy
   Neck: supple, JVP not elevated, no LAD
   Lungs: Decreased BS at bases
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present,
   colonostomy bag in place
   GU: foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   269 K/uL
   8.2 g/dL
   96 mg/dL
   4.7 mg/dL
   18 mEq/L
   4.0 mEq/L
   64 mg/dL
   100 mEq/L
   130 mEq/L
   24.3 %
   10.2 K/uL
        [image002.jpg] -blood cxs x4 pending, urine cx pending
                             [**2154-6-8**]  05:48 PM
                             [**2154-6-9**]  02:00 AM
   WBC
   10.2
   Hct
   28.9
   24.3
   Plt
   269
   Cr
   4.3
   4.7
   TropT
   0.06
   Glucose
   96
   Other labs: CK / CKMB / Troponin-T:357/6/0.06, Alk Phos / T Bili:/0.8,
   Lactic Acid:1.2 mmol/L, LDH:287 IU/L, Ca++:7.9 mg/dL, Mg++:1.7 mg/dL,
   PO4:4.7 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
   This is a 85 year-old female with CHF, afib, HTN, CKD, recent fall,
   presents with malaise, cough, hypoxia, new bilateral effusions, anemia,
   and acute renal failure.
   .
   #  RLL pneumonia with parapneumonic effusions: Most likely etiology of
   pt
s leukocytosis and fever.  Concern for SIRS with fever, elevated
   WBC, hypotension.  With elevated BNP, there may also be a component of
   heart failure, worsened by anemia and contributing to the pleural
   effusions.  Also considered PE in the differential for her
   presentation, however pt is not a candidate for anticoagulation or CTA
   at this time.  VQ scan would not be sensitive in the setting of lung
   pathology.
   - cont levofloxacin for empiric coverage of CAP
   - tylenol prn
   - trend WBC and fever curve
   - f/u blood and urine cx
   - cx if spikes
   - trend cardiac enzymes
   - hold diuresis for now given hypotension
   - f/u echo, f/u outpt cardiologist
   - echo today, diagnostic tap if sufficient fluid
   - LE Doppler, eval for DVT
   .
   #  Acute on chronic renal failure:  Pt with worsening renal failure
   o/n, thought to be pre-renal in the context of infection and decreased
   PO intake.  Also appears to be pre-renal based on urine lytes however
   creatinine is not improving with hydration and [**Year (4 digits) **] remains low.
   Increasing concern for ATN.
   - cont to monitor BUN/Cr
   - renally dose medications
   - follow fluid status, electrolytes, [**Name (NI) **]
   - pt continues to appear dry, will bolus additional fluids today
   .
   #  Hypotension:  Most likely secondary to volume depletion in the
   setting of decreased PO intake and insensible losses from
   infection/fevers.  Pt also has large ecchymoses which may have
   contributed to her crit drop.  Was fluid responsive, now
   hemodynamically stable, though relatively hypotensive given she carries
   a history of hypertension on multiple anti-hypertensive meds as an
   outpatient.
   - NS bolus prn for MAP<60 or [**Name (NI) **]<30cc/h
   - transfuse one unit PRBCs in the context of crit drop today
   .
   #  Acute anemia:  Concern for blood loss secondary to fall one week
   ago, possible hematomas at shoulder and right hip.  Hct dropped from
   34.6 one month ago to 26.9 today.  MCV is 91.  Nl platelet count.  No
   history of anemia.  No history of recent observed bleeding.  Negative
   hemolysis w/u, iron studies suggest anemia of chronic disease.
   - maintain active T+S
   - guaiac all stools
   - q8 hct
   - transfuse < 25, [**Male First Name (un) 194**] with lasix given CHF if pt becomes volume
   overloaded
   - hold aspirin, SC heparin
   .
   #  Hyponatremia:  Likely secondary to hypovolemia.  Also on the
   differential would be SIADH, CHF, drug-induced (HCTZ).
   - cont to monitor
   - will repeat Na now s/p volume repletion
   - holding HCTZ
   - consider SIADH work-up if does not improve
   #  s/p Fall:  Sounds consistent with mechanical fall.  No evidence of
   fracture or ICH.  Large echymoses concerning for hematomas as cause for
   anemia.
   - tylenol prn for pain control
   - management of anemia as above
   .
   #  Atrial fibrillation:  Will need to clarify history with outpatient
   cardiologist.  Currently in NSR.
   -echo today
   .
   #  Hypertension:  Holding all anti-hypertensives in the setting of
   recent hypotension.
   .
   # FEN: IVF as above, replete electrolytes prn, cardiac diet
   .
   # Prophylaxis: pneumoboots, famotidine
   .
   # Access: peripherals
   .
   # Code: full code, confirmed with patient and HCP
   .
   # Communication: Patient
   - HCP is son [**Name (NI) 2475**] [**Name (NI) 8706**] [**Telephone/Fax (1) 8707**] (cell)
   .
   # Disposition: ICU level of care
   ICU Care
   Nutrition: PO full diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2154-6-8**] 04:03 PM
   20 Gauge - [**2154-6-8**] 04:04 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:  famotidine
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2154-06-10 06:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2154-6-9**] 04:06 PM:  1. No hydroneprhosis 2. See a
   previously treated heteroechoic lesion of right kidney
 FEVER - 102.0
F - [**2154-6-9**] 08:00 AM
   Worsening ARF, Cr=5.3. Started on IVF.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2154-6-9**] 10:17 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2154-6-9**] 11:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-6-10**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.6
C (99.6
   HR: 68 (60 - 90) bpm
   BP: 118/54(70) {100/44(58) - 137/80(118)} mmHg
   RR: 18 (17 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
             Total In:
                                                                  2,982 mL
                                                                    834 mL
   PO:
             TF:
   IVF:
                                                                  2,632 mL
                                                                    834 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    915 mL
                                                                    155 mL
   Urine:
                                                                    335 mL
                                                                    155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,067 mL
                                                                    679 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///15/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear, R 3^rd cranial nerve
   palsy
   Neck: supple, JVP not elevated, no LAD
   Lungs: Decreased BS half way up posteriorly.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present,
   colonostomy bag in place
   GU: foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   279 K/uL
   9.3 g/dL
   96 mg/dL
   5.2 mg/dL
   15 mEq/L
   3.7 mEq/L
   74 mg/dL
   102 mEq/L
   131 mEq/L
   27.9 %
   9.0 K/uL
        [image002.jpg]
                             [**2154-6-8**]  05:48 PM
                             [**2154-6-9**]  02:00 AM
                             [**2154-6-9**]  10:03 AM
                             [**2154-6-9**]  05:55 PM
                             [**2154-6-10**]  03:09 AM
   WBC
   10.2
   9.0
   Hct
   28.9
   24.3
   24.3
   29.6
   27.9
   Plt
   269
   279
   Cr
   4.3
   4.7
   5.0
   5.3
   5.2
   TropT
   0.06
   0.06
   Glucose
   96
   97
   96
   Other labs: CK / CKMB / Troponin-T:275/5/0.06, Alk Phos / T Bili:/0.8,
   Lactic Acid:1.2 mmol/L, LDH:287 IU/L, Ca++:7.8 mg/dL, Mg++:2.3 mg/dL,
   PO4:4.9 mg/dL
   Assessment and Plan
   This is a 85 year-old female with CHF, afib, HTN, CKD, recent fall,
   presents with malaise, cough, hypoxia, new bilateral effusions, anemia,
   and acute on chronic renal failure.
   .
   #  RLL pneumonia with parapneumonic effusions: Most likely etiology of
   pt
s leukocytosis and fever.  Concern for SIRS with fever, elevated
   WBC, hypotension.  With elevated BNP, there may also be a component of
   heart failure, worsened by anemia and contributing to the pleural
   effusions.  Also considered PE in the differential for her
   presentation, however pt is not a candidate for anticoagulation or CTA
   at this time.  VQ scan would not be sensitive in the setting of lung
   pathology.
   - cont levofloxacin for empiric coverage of CAP
   - tylenol prn
   - trend WBC and fever curve
   - f/u blood and urine cx
   - cx if spikes
   - trend cardiac enzymes
   - hold diuresis for now given hypotension
   - f/u echo, f/u outpt cardiologist
   - echo today, diagnostic tap if sufficient fluid
   - LE Doppler, eval for DVT
   .
   #  Acute on chronic renal failure:  Pt with worsening renal failure
   o/n, thought to be pre-renal in the context of infection and decreased
   PO intake.  Also appears to be pre-renal based on urine lytes however
   creatinine is not improving with hydration and [**Year (4 digits) **] remains low.
   Increasing concern for ATN.
   - cont to monitor BUN/Cr
   - renally dose medications
   - follow fluid status, electrolytes, [**Name (NI) **]
   - pt continues to appear dry, will bolus additional fluids today
   .
   #  Hypotension:  Most likely secondary to volume depletion in the
   setting of decreased PO intake and insensible losses from
   infection/fevers.  Pt also has large ecchymoses which may have
   contributed to her crit drop.  Was fluid responsive, now
   hemodynamically stable, though relatively hypotensive given she carries
   a history of hypertension on multiple anti-hypertensive meds as an
   outpatient.
   - NS bolus prn for MAP<60 or [**Name (NI) **]<30cc/h
   - transfuse one unit PRBCs in the context of crit drop today
   .
   #  Acute anemia:  Concern for blood loss secondary to fall one week
   ago, possible hematomas at shoulder and right hip.  Hct dropped from
   34.6 one month ago to 26.9 yesterday and 27.9 today.  MCV is 92.  Nl
   platelet count.  No history of anemia.  No history of recent observed
   bleeding.  Negative hemolysis w/u, iron studies suggest anemia of
   chronic disease.
   - maintain active T+S
   - guaiac all stools
   - q8 hct
   - transfuse < 25, [**Male First Name (un) 194**] with lasix given CHF if pt becomes volume
   overloaded
   - hold aspirin, SC heparin
   .
   #  Hyponatremia:  Likely secondary to hypovolemia.  Also on the
   differential would be SIADH, CHF, drug-induced (HCTZ).
   - cont to monitor
   - will repeat Na now s/p volume repletion
   - holding HCTZ
   - consider SIADH work-up if does not improve
   #  s/p Fall:  Sounds consistent with mechanical fall.  No evidence of
   fracture or ICH.  Large echymoses concerning for hematomas as cause for
   anemia.
   - tylenol prn for pain control
   - management of anemia as above
   .
   #  Atrial fibrillation:  Will need to clarify history with outpatient
   cardiologist.  Currently in NSR.
   -f/u on echo status
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2154-6-8**] 04:03 PM
   20 Gauge - [**2154-6-8**] 04:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2154-06-10 14:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: malaise, cough, hypoxia s/p fall. Has PNA with
   effusions and acute on CRF.
   24 Hour Events:
 ULTRASOUND - At [**2154-6-9**] 04:06 PM:  1. No hydroneprhosis 2. See a
   previously treated heteroechoic lesion of right kidney
 FEVER - 102.0
F - [**2154-6-9**] 08:00 AM
   Worsening ARF, Cr=5.3. Started on IVF.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2154-6-9**] 10:17 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2154-6-9**] 11:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-6-10**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.6
C (99.6
   HR: 68 (60 - 90) bpm
   BP: 118/54(70) {100/44(58) - 137/80(118)} mmHg
   RR: 18 (17 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
             Total In:
                                                                  2,982 mL
                                                                    834 mL
   PO:
             TF:
   IVF:
                                                                  2,632 mL
                                                                    834 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    915 mL
                                                                    155 mL
   Urine:
                                                                    335 mL
                                                                    155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,067 mL
                                                                    679 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///15/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear, R 3^rd cranial nerve
   palsy
   Neck: supple, JVP not elevated, no LAD
   Lungs: Decreased BS on right posteriorly. Bronchial breath sounds on
   lower right lung field.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present,
   colonostomy bag in place
   GU: foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   279 K/uL
   9.3 g/dL
   96 mg/dL
   5.2 mg/dL
   15 mEq/L
   3.7 mEq/L
   74 mg/dL
   102 mEq/L
   131 mEq/L
   27.9 %
   9.0 K/uL
        [image002.jpg]
                             [**2154-6-8**]  05:48 PM
                             [**2154-6-9**]  02:00 AM
                             [**2154-6-9**]  10:03 AM
                             [**2154-6-9**]  05:55 PM
                             [**2154-6-10**]  03:09 AM
   WBC
   10.2
   9.0
   Hct
   28.9
   24.3
   24.3
   29.6
   27.9
   Plt
   269
   279
   Cr
   4.3
   4.7
   5.0
   5.3
   5.2
   TropT
   0.06
   0.06
   Glucose
   96
   97
   96
   Other labs: CK / CKMB / Troponin-T:275/5/0.06, Alk Phos / T Bili:/0.8,
   Lactic Acid:1.2 mmol/L, LDH:287 IU/L, Ca++:7.8 mg/dL, Mg++:2.3 mg/dL,
   PO4:4.9 mg/dL
   CXR: pleural effusion on right and RLL pneumonia
   CT scan: bilateral pleural effusions (R>L) and consolidation in RLL
   Bilateral LE doppler: pending
   Cultures:
   --Blood, urine, sputum: pending
   Assessment and Plan
   This is a 85 year-old female with CHF, afib, HTN, s/p nephrectomy of
   left kidney for renal cell carcinoma, CKD, recent fall, presents with
   malaise, cough, hypoxia, bilateral pleural effusions, anemia, and acute
   on chronic renal failure.
   .
   #  RLL pneumonia with bilateral pleural effusions: Most likely etiology
   of pt
s leukocytosis and fever.  Concern for SIRS with fever, elevated
   WBC, hypotension.  Urine legionella antigen was positive, so likely
   cause of pneumonia. In addition, Streptococcus might also be a
   possibility, but unlikely. CXR showed pleural effusion on the left with
   a consolidation in the left lower lobe. CT scan showed bilateral
   pleural effusions and left-sided consolidation in lower lobePatient
   continues to have a fever, despite treatment with levofloxacin. Since
   the patient has an elevated BNP, the etiology of his effusions might
   also be cardiac.
   - Renal dose adjustment of Levofloxacin to treat legionella (started
   [**2154-6-8**])
   - Start Vancomycin to cover possible staph (started [**2154-6-10**])
   - obtain sputum culture
   - f/u blood and urine cx
   - trend WBC and fever curve
   - U/S of the lung to assess whether or not the pleural effusion can be
   tapped
   - tylenol prn
   - cx if spikes
   - trend cardiac enzymes
   - f/u echo for cardiac function that might related to pleural
   effusions, f/u outpt cardiologist
   .
   #  Acute on chronic renal failure:  Pt with worsening renal failure
   o/n, thought to be pre-renal in the context of infection and decreased
   PO intake.  Also appears to be pre-renal based on urine lytes
   (FeNa=0.8%) however creatinine is not improving with hydration and UOP
   remains low.   Increasing concern for ATN. Patient also has an anion
   gap (=14) acidosis.
   - start D5W with 3 Amps of bicarb for pt
s acidosis
   - cont to monitor BUN/Cr.
   - renally dose medications
   - follow fluid status, electrolytes, UOP. Will check PM lytes.
   .
   #  Hyponatremia:  Likely related to Legionella infection. Also might be
   intravascularly depleted and has ADH response.  Also on the
   differential would be SIADH, CHF, drug-induced (HCTZ).
   - cont to monitor
   - holding HCTZ
   .
   #  Hypotension:  Most likely secondary to volume depletion in the
   setting of decreased PO intake and insensible losses from
   infection/fevers.  Pt also has large ecchymoses which may have
   contributed to her crit drop.  Was fluid responsive, now
   hemodynamically stable, though relatively hypotensive given she carries
   a history of hypertension on multiple anti-hypertensive meds as an
   outpatient.
   - NS bolus prn for MAP<60 or UOP<30cc/h
   .
   #  Acute anemia:  Concern for blood loss secondary to fall one week
   ago, possible hematomas at shoulder and right hip.  Hct dropped from
   34.6 one month ago to 26.9 yesterday and 27.9 today.  MCV is 92.  Nl
   platelet count.  No history of anemia.  No history of recent observed
   bleeding.  Negative hemolysis w/u, iron studies suggest anemia of
   chronic disease.  Crit has been stable.
   - maintain active T+S
   - guaiac stools have been negative
   - q8 hct
   - transfuse < 25, [**Male First Name (un) 194**] with lasix given CHF if pt becomes volume
   overloaded
   - hold aspirin, SC heparin
   .
   #  s/p Fall:  Sounds consistent with mechanical fall.  No evidence of
   fracture or ICH.  Large echymoses concerning for hematomas as cause for
   anemia.
   - tylenol prn for pain control
   - management of anemia as above
   .
   #  Atrial fibrillation:  Will need to clarify history with outpatient
   cardiologist.  Currently in NSR.
   -f/u on echo status
   ICU Care
   Nutrition: Regular cardiac healthy diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2154-6-8**] 04:03 PM
   20 Gauge - [**2154-6-8**] 04:04 PM
   Prophylaxis:
   DVT:  on pneumoboots
   Stress ulcer: on pepcid
   VAP:
   Comments:
   Communication:  Comments: Will communicate with family and Dr. [**First Name (STitle) 435**],
   her PCP.
   [**Name10 (NameIs) 36**] status: Full code
   Disposition: Pending hemodynamic stability.